US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 93)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 76%). 1H NMR (300 MHz, CDCl3): δ 2.36 (s, 6H), 3.18-3.21 (m, 4H), 3.69-3.72 (m, 4H), 4.15 (s, 3H), 6.97-7.04 (m, 3H), 7.22-7.42 (m, 4H), 7.82-7.87 (m, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 76% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C)OC | C22H24FN5O2
